*************************************
*COPYRIGHT 1994, BY AMP INCORPORATED*
**ALL INTERNATIONAL RIGHTS RESERVED**
*************************************
*                      *
*       MICROSTRIP     *   AMP Connector Catalog No.
*       0.73 HIGH      *            65194
*                      *
************************
*  rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
**********
*SRC=MS73M;MS73M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MS73M 1  2   3
*            IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.006
L4 4 5 2.17NH
C5 5 3 1.25PF
L5 5 6 2.17NH
C6 6 3 1.25PF
L6 6 7 2.17NH
R7 7 2 0.006
.ENDS MS73M
***********
*SRC=MS73A;MS73A;Connectors;Imped. Cntrl.;Parallel, Row A
*SYM=ZPSLM
.SUBCKT MS73A 1  2   3
*            IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.006
L4 4 5 2.20NH
C5 5 3 1.24PF
L5 5 6 2.20NH
C6 6 3 1.24PF
L6 6 7 2.20NH
R7 7 2 0.006
.ENDS MS73A
***********
*SRC=MS73B;MS73B;Connectors;Imped. Cntrl.;Parallel, Row B
*SYM=ZPSLM
.SUBCKT MS73B 1  2   3
*            IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.030
L4 4 5 2.13NH
C5 5 3 1.25PF
L5 5 6 2.13NH
C6 6 3 1.25PF
L6 6 7 2.13NH
R7 7 2 0.030
.ENDS MS73B
***********
*SRC=MS73C;MS73C;Connectors;Imped. Cntrl.;Parallel, Row C
*SYM=ZPSLM
.SUBCKT MS73C 1  2   3
*            IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.006
L4 4 5 2.13NH
C5 4 3 1.25PF
L5 5 6 2.13NH
C6 6 3 1.25PF
L6 6 7 2.13NH
R7 7 2 0.006
.ENDS MS73C
***********
*SRC=MS73D;MS73D;Connectors;Imped. Cntrl.;Parallel, Row D
*SYM=ZPSLM
.SUBCKT MS73D 1  2   3
*            IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.006
L4 4 5 2.20NH
C5 5 3 1.24PF
L5 5 6 2.20NH
C6 6 3 1.24PF
L6 6 7 2.20NH
R7 7 2 0.006
.ENDS MS73D
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=MS73ML;MS73ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MS73ML 1  2   3
*             IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=51 TD=86PS
.ENDS MS73ML
************
*SRC=MS73AL;MS73AL;Connectors;Imped. Cntrl.;Parallel, Row A
*SYM=ZPSLM
.SUBCKT MS73AL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=52 TD=85PS
.ENDS MS73AL
************
*SRC=MS73BL;MS73BL;Connectors;Imped. Cntrl.;Parallel, Row B
*SYM=ZPSLM
.SUBCKT MS73BL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=51 TD=87PS
.ENDS MS73BL
************
*SRC=MS73CL;MS73CL;Connectors;Imped. Cntrl.;Parallel, Row C
*SYM=ZPSLM
.SUBCKT MS73CL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=51 TD=87PS
.ENDS MS73CL
************
*SRC=MS73DL;MS73DL;Connectors;Imped. Cntrl.;Parallel, Row D
*SYM=ZPSLM
.SUBCKT MS73DL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .73 High, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=52 TD=85PS
.ENDS MS73DL
*************
*
****************************************************
*
*                       *  AMP Connector Catalog No.
*       MICROSTRIP      *             65194
*       0.43 HIGH       *
*                       *
*************************
*  rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
*************
*SRC=MS43M;MS43M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MS43M 1  2   3
*            IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.007
L4 4 5 1.45NH
C5 5 3 0.89PF
L5 5 6 1.45NH
R6 6 2 0.007
.ENDS MS43M
***********
*SRC=MS43A;MS43A;Connectors;Imped. Cntrl.;Parallel, Row A
*SYM=ZPSLM
.SUBCKT MS43A 1  2  3
*            IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.007
L4 4 5 1.50NH
C5 5 3 0.87PF
L5 5 6 1.50NH
R6 6 2 0.007
.ENDS MS43A
***********
*SRC=MS43B;MS43B;Connectors;Imped. Cntrl.;Parallel, Row B
*SYM=ZPSLM
.SUBCKT MS43B 1  2   3
*            IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.007
L4 4 5 1.40NH
C5 5 3 0.90PF
L5 5 6 1.40NH
R6 6 2 0.007
.ENDS MS43B
***********
*SRC=MS43C;MS43C;Connectors;Imped. Cntrl.;Parallel, Row C
*SYM=ZPSLM
.SUBCKT MS43C 1  2   3
*            IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.007
L4 4 5 1.40NH
C5 5 3 0.90PF
L5 5 6 1.40NH
R6 6 2 0.007
.ENDS MS43C
***********
*SRC=MS43D;MS43D;Connectors;Imped. Cntrl.;Parallel, Row D
*SYM=ZPSLM
.SUBCKT MS43D 1  2   3
*            IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.007
L4 4 5 1.50NH
C5 5 3 0.87PF
L5 5 6 1.50NH
R6 6 2 0.007
.ENDS MS43D
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=MS43ML;MS43ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MS43ML 1  2   3
*             IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.013
T4 4 3 2 3 Z0=57 TD=48PS
.ENDS MS43ML
************
*SRC=MS43AL;MS43AL;Connectors;Imped. Cntrl.;Parallel, Row A
*SYM=ZPSLM
.SUBCKT MS43AL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.013
T4 4 3 2 3 Z0=59 TD=47PS
.ENDS MS43AL
************
*SRC=MS43BL;MS43BL;Connectors;Imped. Cntrl.;Parallel, Row B
*SYM=ZPSLM
.SUBCKT MS43BL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.013
T4 4 3 2 3 Z0=56 TD=48PS
.ENDS MS43BL
************
*SRC=MS43CL;MS43CL;Connectors;Imped. Cntrl.;Parallel, Row C
*SYM=ZPSLM
.SUBCKT MS43CL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.013
T4 4 3 2 3 Z0=56 TD=48PS
.ENDS MS43CL
************
*SRC=MS43DL;MS43DL;Connectors;Imped. Cntrl.;Parallel, Row D
*SYM=ZPSLM
.SUBCKT MS43DL 1  2   3
*             IN*OUT*REF
* AMP Microstrip .43 High, 65194
R1 1 4 0.013
T4 4 3 2 3 Z0=59 TD=47PS
.ENDS MS43DL
************
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 50 S         *             n/a
*     .205 high          *
**************************
*  rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
****************
*SRC=MI5S20M;MI5S20M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI5S20M  1  2   3
*               IN*OUT*REF
* AMP Mictor 50 S .205 High
R1 1 4 0.005
L4 4 5 1.8NH
C5 5 3 0.7PF
L5 5 6 1.8NH
R6 6 2 0.005
.ENDS MI5S20M
*************
*
********** TRANSMISSION LINE MODELS **************
*
************
*SRC=MI5S20ML;MI5S20ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI5S20ML 1  2   3
*               IN*OUT*REF
* AMP Mictor 50 S .205 High
R1 1 4 0.010
T4 4 3 2 3 Z0=72 TD=60PS
.ENDS MI5S20ML
**************
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 25 S         *            n/a
*     .495 high          *
**************************
*  rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
****************
*SRC=MI2S49M;MI2S49M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S49M  1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .495 High
R1 1 4 0.012
L4 4 5 2.55NH
C5 5 3 1.1PF
L5 5 6 2.55NH
R6 6 2 0.012
.ENDS MI2S49M
*************
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=MI2S49ML;MI2S49ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S49ML 1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .495 High
R1 1 4 0.023
T4 4 3 2 3 Z0=68 TD=85PS
.ENDS MI2S49ML
**************
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 25 S         *          n/a
*     .205 high          *
**************************
*  rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
****************
*SRC=MI2S20M;MI2S20M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S20M  1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .205 High
R1 1 4 0.005
L4 4 5 1.6NH
C5 5 3 0.7PF
L5 5 6 1.6NH
R6 6 2 0.005
.ENDS MI2S20M
*************
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=MI2S20ML;MI2S20ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S20ML 1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .205 High
R1 1 4 0.010
T4 4 3 2 3 Z0=68 TD=60PS
.ENDS MI2S20ML
**********
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 25 S         *          n/a
*     .260 high          *
**************************
*  rev 5/3/95
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
***********
*SRC=MI2S26M;MI2S26M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S26M  1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .260 High
R1 1 4 0.008
L4 4 5 2.1NH
C5 5 3 0.86PF
L5 5 6 2.1NH
R6 6 2 0.008
.ENDS MI2S26M
*************
*
********** TRANSMISSION LINE MODELS **************
*
*************
*SRC=MI2S26ML;MI2S26ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S26ML 1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .260 High
R1 1 4 0.015
T4 4 3 2 3 Z0=70 TD=60PS
.ENDS MI2S26ML
**************
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 25 S         *            n/a
*     .430 high          *
**************************
*  rev 5/3/95
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 500PS OR SLOWER
*
**************
*
***** MEDIAN VALUES *****
*SRC=MI2S43M;MI2S43M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S43M  1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .430 High
R1 1 4 0.011
L4 4 5 4.05NH
C5 5 3 1.7PF
L5 5 6 4.05NH
R6 6 2 0.011
.ENDS MI2S43M
*************
*
********** TRANSMISSION LINE MODELS **************
*
*************
*SRC=MI2S43ML;MI2S43ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S43ML 1  2   3
*               IN*OUT*REF
* AMP Mictor 25 S .430 High
R1 1 4 0.022
T4 4 3 2 3 Z0=69 TD=117PS
.ENDS MI2S43ML
**************
*
******************************************************
*                        *   AMP Connector Catalog No.
*    MICTOR 25 S         *          65560
*     .707 high          *
**************************
*  rev 5/13/96
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 1.5NS OR SLOWER
*
*************
*SRC=MI2S70M;MI2S70M;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S70M  1  2   3
*               IN*OUT*REF
R1 1 4 0.015
L4 4 5 4.2NH
C5 5 3 2.4PF
L5 5 6 4.2NH
R6 6 2 0.015
.ENDS MI2S70M
*************
*
********** TRANSMISSION LINE MODELS **************
*
*************
*SRC=MI2S70ML;MI2S70ML;Connectors;Imped. Cntrl.;Parallel, Median Value
*SYM=ZPSLM
.SUBCKT MI2S70ML 1  2   3
*               IN*OUT*REF
R1 1 4 0.029
T4 4 3 2 3 Z0=59 TD=143PS
.ENDS MI2S70ML
**************
